### PR TITLE
[Merged by Bors] - feat(NumberTheory/ArithmeticFunction/Defs): define the Dirichlet inverse of an arithmetic function

### PR DESCRIPTION
**Pull request by tb65536**
This PR defines the Dirichlet inverse of an arithmetic function.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/ArithmeticFunction/Defs.lean [hunk 1]
```diff
@@ -345,6 +345,74 @@ instance {M : Type*} [Semiring R] [AddCommMonoid M] [Module R M] :
     ext
     simp only [smul_apply, sum_const_zero, zero_smul, zero_apply]
 
+section DirichletInverse
+
+section Ring
+
+variable [Ring R] (f : ℕ → R) (hf : Invertible (f 1))
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/ArithmeticFunction/Defs.lean:354]: Is there a reason to use `Invertible (f 1)` instead of, say, `IsUnit`? `Invertible` is data, so it can be a little annoying to use if, say, `f 1 = 1`.

File: Mathlib/NumberTheory/ArithmeticFunction/Defs.lean [hunk 2]
```diff
@@ -345,6 +345,75 @@ instance {M : Type*} [Semiring R] [AddCommMonoid M] [Module R M] :
...
+@[simp]
+theorem dirichletInverseFun_apply_zero : dirichletInverseFun f hf 0 = 0 := by
+  rw [dirichletInverseFun, if_pos rfl]
+
+@[simp]
+theorem dirichletInverseFun_apply_one : dirichletInverseFun f hf 1 = ⅟(f 1) := by
+  rw [dirichletInverseFun, if_neg one_ne_zero, if_pos rfl]
+
+@[simp]
+theorem dirichletInverseFun_apply_ne (n : ℕ) (hn0 : n ≠ 0) (hn1 : n ≠ 1) :
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/ArithmeticFunction/Defs.lean]:
```suggestion
theorem dirichletInverseFun_apply_ne {n : ℕ} (hn0 : n ≠ 0) (hn1 : n ≠ 1) :
```

File: Mathlib/NumberTheory/ArithmeticFunction/Defs.lean (hunk 1 above)
Comment (riccardobrasca) [reply Mathlib/NumberTheory/ArithmeticFunction/Defs.lean:354]: Computability is a good reason to use `Invertible`, can you please add a comment about using `(hf : Invertible (f 1))` instead of `[Invertible (f 1)]`?

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+
